US05438052
2-Azidomethyl-5-methyl[1.2.4]-triazolo[1,5-a]-pyrimidin-7-ol (3.1 g) are suspended in 20 ml of freshly distilled phosphorus oxychloride and 1.1 ml of pyridine and stirred at 50° C. for 4.5 hours. The phosphorus oxychloride is evaporated in a vacuum and the residue is taken up in 40 ml of ethyl acetate and 40 ml of water. The resulting suspension is stirred in an ice bath for 45 minutes. The product is filtered off under suction and dried in a vacuum at 40° C. There are obtained 2.1 g of 2-azidomethyl-7-chloro-5-methyl[1.2.4]triazolo[1,5-a]pyrimidine as white crystals of melting point 130°-132° C.

reactant | 2-Azidomethyl-5-methyl[1.2.4]-triazolo[1,5-a]-pyrimidin-7-ol | 3.1 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2O)C)=N1 | C7H7N7O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
product | 2-azidomethyl-7-chloro-5-methyl[1.2.4]triazolo[1,5-a]pyrimidine | 2.1 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2Cl)C)=N1 | C7H6ClN7
